US09353113B2
To a solution of the compound (4.32 g) produced in Reference manufacturing example 30 in methanol (29 mL) was added p-toluenesulfonic acid monohydrate (28 mg), and the mixture was stirred at room temperature for 24 hours. Water and an aqueous saturated sodium bicarbonate solution were added, thereafter, methanol was distilled off, followed by extraction with ethyl acetate. The organic layer was washed with an aqueous saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated to obtain tert-butyl 1-(4-hydroxybutyl)cyclopropanecarboxylate (3.20 g). This was dissolved in acetonitrile (118 mL), a phosphate buffer (pH 6.6, 79 mL) was added, and the mixture was stirred at 40° C. A 2,2,6,6-tetramethylpiperidine 1-oxyl free radical (TEMPO, 227 mg), an aqueous sodium chlorite solution (sodium chlorite 2.62 g, water 16 mL) and an aqueous sodium hypochlorite solution (0.5%, 16 mL) were added, and the mixture was stirred for 15 hours. After allowing to cool, an aqueous sodium sulfite solution and 2N hydrochloric acid were added, followed by extraction with ethyl acetate. This was reverse-extracted with an aqueous saturated sodium bicarbonate solution, 2N hydrochloric acid was added to make the solution acidic, followed by extraction with ethyl acetate. This was washed with water and an aqueous saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated to obtain the title compound (3.08 g) having the following physical property values.

reactant | p-toluenesulfonic acid monohydrate | 28 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 29 mL | CO | CH4O
product | tert-butyl 1-(4-hydroxybutyl)cyclopropanecarboxylate | 3.20 g | OCCCCC1(CC1)C(=O)OC(C)(C)C | C12H22O3
